US08735362B2
Step A: 5-Bromo-2-iodo-4-methyl-pyridine
To a solution of 2,5-dibromo-4-methylpyridine (2 g) in acetonitrile (40 ml) at room temperature under argon were added sodium iodide (4.8 g) then acetyl chloride (0.94 g). After 3 hours stirring at room temperature the white solid formed was filtered off and the filtrate was neutralized with aqueous saturated solution of sodium hydrogenocarbonate. The organic phase was dried over sodium sulfate and concentrated in vacuo. The residue was purified by column chromatography (ethyl acetate/cyclohexane) to afford the title product as a brown solid (2.04 g). 1H-NMR (CDCl3, 400 MHz): 8.40 (s, 1H), 7.60 (s, 1H), 2.30 (s, 3H),

reactant | 2,5-dibromo-4-methylpyridine | 2 g | BrC1=NC=C(C(=C1)C)Br | C6H5Br2N
reactant | sodium iodide | 4.8 g | [I-].[Na+]
reactant | acetyl chloride | 0.94 g | C(C)(=O)Cl | C2H3ClO
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 5-Bromo-2-iodo-4-methyl-pyridine | 2.04 g | BrC=1C(=CC(=NC1)I)C | C6H5BrIN
